US04128658
(a) 2-[4-[5-(Dimethylamino)methyl-2-furanyl]butyl]-1H-isoindole-1,3(2H)-dione
2-[4-(2-Furanyl)butyl]-1H-isoindole-1,3(2H)-dione (5.38 g), paraformaldehyde (1.2 g) and dimethylamine hydrochloride (3.26 g) were refluxed in absolute ethanol (100 ml). After 6 hr further paraformaldehyde (0.6 g) and dimethylamine hydrochloride (1.6 g) were added and heating continued for a further 20 hr. The solvent was removed, the residue made strongly basic with 5N sodium hydroxide, extracted with ethyl acetate and the organic layer evaporated. The crude product was purified by column chromatography to give an amber oil (3.25 g) Rf 0.4 silica/methanol. NMR (CDCl3) 8-8.6 m (4H); 7.75 s (6H); 7.3 m (2H); 6.55 s (2H); 6.3 m (2H); 4.0 m (2H); 1.9-2.4 m (4H).

reactant | 2-[4-(2-Furanyl)butyl]-1H-isoindole-1,3(2H)-dione | 5.38 g | O1C(=CC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C16H15NO3
reactant | paraformaldehyde | 1.2 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 3.26 g | Cl.CNC
reactant | paraformaldehyde | 0.6 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 1.6 g | Cl.CNC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[4-[5-(Dimethylamino)methyl-2-furanyl]butyl]-1H-isoindole-1,3(2H)-dione | 3.25 g | CN(C)CC1=CC=C(O1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C19H22N2O3
